US05270310
N-Hexadecanoyl-N,N',N'-trimethyl-1,3-propanediamine (4)
To a solution of N,N,N'-trimethyl-1,3-propanediamine (25 g, 0.22 mmole) in methylene chloride (500 mL) was added palmitoyl chloride (57 g, 0.20 mmole) dropwise over 4 hours. After the addition was complete the solvent was removed under reduced pressure. The residue was refluxed in diethyl ether (600 mL) overnight. A portion of the precipitate was collected by filtration and stirred in saturated aqueous sodium bicarbonate (500 mL) overnight. The reaction mixture was extracted three times with chloroform (500 mL portions). The organic layer was dried over magnesium sulfate and the salts removed by filtration. The solvent was removed under reduced pressure. The residue was Kugelrohr distilled to give the title compound as a clear yellow oil. 1H NMR (300 MHz, CDCl3): δrotamers 0.861 (3H, t, J=6.4 Hz), 1.234 (24H, bs) 1.61 to 1.74 (4H, m), 2.196 (6H, s), 2.10 to 2.33 (4H, m) 2.894 and 2.969 (3H, s), 2.767 and 3.139 (2H, t, J=7.3 Hz).

reactant | N,N,N'-trimethyl-1,3-propanediamine | 0.22 mmole, 25 g | CN(CCCNC)C | C6H16N2
reactant | palmitoyl chloride | 0.20 mmole, 57 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | N-Hexadecanoyl-N,N',N'-trimethyl-1,3-propanediamine | C(CCCCCCCCCCCCCCC)(=O)N(CCCN(C)C)C | C22H46N2O
